US09302999B2
Step A: Preparation of ethyl 5-ethoxy-2-(4-fluorophenyl)-2H-1,2,3-triazole-4-carboxylate
A stirred mixture of 4-fluoroaniline (11.1 g, 100 mmol) in water (50 mL) and concentrated hydrochloric acid (19 mL) was cooled to −15° C. To this mixture was added a previously cooled (0° C.) solution of sodium nitrite (7.6 g, 110 mmol) in water (25 mL) over 5 min. Ice was added directly to the reaction to maintain the temperature below 5° C. After the addition was complete, the reaction was stirred at 0° C. for 15 min. Sodium acetate (41.0 g, 500 mmol) was added followed by ethyl 3-ethoxy-3-iminopropionate (15.9 g, 100 mmol). A yellow precipitate formed immediately. The suspension was stirred at 23° C. for 30 min., and then the solid was filtered and washed with water (40 mL). The still wet hydrazone was dissolved in pyridine (150 mL). A solution of copper (II) sulfate (49.7 g, 199 mmol) in water (150 mL) was added at once. The dark mixture was heated to 90° C. for 4 h. The majority of the pyridine (˜100 mL) was removed under vacuum. The residue was diluted with ethyl acetate (200 mL), water (100 mL) and 2 M sulfuric acid (80 mL). The resulting emulsion was filtered through Celite® diatomaceaous earth filter aid. The organic layer was washed with 2 M sulfuric acid (2×100 mL), dried (MgSO4) and concentrated under reduced pressure. The resulting crude mixture was recrystallized from ethanol (80 mL) to obtain the title compound (15.1 g) as a pale red solid.

reactant | 4-fluoroaniline | 100 mmol, 11.1 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium nitrite | 110 mmol, 7.6 g | N(=O)[O-].[Na+]
reactant | Sodium acetate | 500 mmol, 41.0 g | C(C)(=O)[O-].[Na+]
reactant | ethyl 3-ethoxy-3-iminopropionate | 100 mmol, 15.9 g | C(C)OC(CC(=O)OCC)=N | C7H13NO3
solvent | water | 50 mL | O | H2O
solvent | hydrochloric acid | 19 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | water | 150 mL | O | H2O
catalyst | copper (II) sulfate | 199 mmol, 49.7 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | ethyl 5-ethoxy-2-(4-fluorophenyl)-2H-1,2,3-triazole-4-carboxylate | 15.1 g | C(C)OC=1C(=NN(N1)C1=CC=C(C=C1)F)C(=O)OCC | C13H14FN3O3
